US08486979B2
5-(6-fluoropyridin-3-yl)-3-(imidazo[1,2-a]pyridin-6-yl)-1,2,4-oxadiazole
The title compound was prepared according to Method C using N′-hydroxyimidazo[1,2-a]pyridine-6-carboximidamide (Bionet) and 6-fluoronicotinic acid (Frontier). 1H NMR (300 MHz, DMSO-d6) δ 7.55 (ddd, J=8.5, 2.7, 0.7 Hz, 1 H), 7.70 (d, J=1.4 Hz, 1 H), 7.73-7.86 (m, 2 H), 8.20 (s, 1 H), 8.75 (ddd, J=8.1, 2.5 Hz, 1 H), 9.08 (dt, J=1.7, 0.8 Hz, 1 H), 9.46 (dd, J=1.7, 1.0 Hz, 1 H) ppm; MS (DCI/NH3) m/z 282 (M+H)+.

reactant | N′-hydroxyimidazo[1,2-a]pyridine-6-carboximidamide | ON=C(N)C=1C=CC=2N(C1)C=CN2 | C8H8N4O
reactant | 6-fluoronicotinic acid | FC1=NC=C(C(=O)O)C=C1 | C6H4FNO2
reactant | NH3 | N | H3N
product | 5-(6-fluoropyridin-3-yl)-3-(imidazo[1,2-a]pyridin-6-yl)-1,2,4-oxadiazole | FC1=CC=C(C=N1)C1=NC(=NO1)C=1C=CC=2N(C1)C=CN2 | C14H8FN5O
